US06890940B2
Methyl iodide (0.010 mL, 0.16 mmol) and a 50% dispersion of sodium hydride in mineral oil (12.0 mg, 0.24 mmol) were added to a solution of 4-(2-hydroxyethoxy)-1-iodo-3,5-dimethoxybenzene (39.0 mg, 0.120 mmol) in anhydrous tetrahydrofuran (1.0 mL), and the mixture was stirred at room temperature for 1 hour. Water was added to the reaction mixture, and the mixture was extracted with diethyl ether. The organic layer was washed with 3.0 M hydrochloric acid, saturated aqueous sodium hydrogencarbonate and brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to yield 1-iodo-3,5-dimethoxy-4-(2-methoxyethoxy)benzene as a colorless oil (40.0 mg, yield: 98%).

reactant | Methyl iodide | 0.16 mmol, 0.010 mL | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
reactant | 4-(2-hydroxyethoxy)-1-iodo-3,5-dimethoxybenzene | 0.120 mmol, 39.0 mg | OCCOC1=C(C=C(C=C1OC)I)OC | C10H13IO4
reactant | Water | O | H2O
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | 1-iodo-3,5-dimethoxy-4-(2-methoxyethoxy)benzene | 40.0 mg, yield: 98% | IC1=CC(=C(C(=C1)OC)OCCOC)OC | C11H15IO4
